US07091214B2
The methods described in Parts A of Example 204 were used to treat 1-[3-(3-amino-7-phenylquinolin-4-ylamino)propyl]pyrrolidin-2-one (1.19 g, 3.30 mmol) with 3-methoxypropionyl chloride (0.45 mL, 4.1 mmol) to afford 1-{3-[2-(2-methoxyethyl)-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one, which was oxidized and then aminated according to the methods described in Parts H and I of Example 1. The product from amination was recrystallized twice from acetonitrile and dried in a vacuum oven at 60° C. to provide 1-{3-[4-amino-2-(2-methoxyethyl)-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one as a light brown solid, mp 187–191° C.

reactant | 1-[3-(3-amino-7-phenylquinolin-4-ylamino)propyl]pyrrolidin-2-one | 3.30 mmol, 1.19 g | NC=1C=NC2=CC(=CC=C2C1NCCCN1C(CCC1)=O)C1=CC=CC=C1 | C22H24N4O
reactant | 3-methoxypropionyl chloride | 4.1 mmol, 0.45 mL | COCCC(=O)Cl | C4H7ClO2
product | 1-{3-[2-(2-methoxyethyl)-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl]propyl}pyrrolidin-2-one | COCCC=1N(C2=C(C=NC=3C=C(C=CC23)C2=CC=CC=C2)N1)CCCN1C(CCC1)=O | C26H28N4O2
